US08536197B2
(109a) N-(3-Methyl-4-nitrobenzoyl)serine methyl ester
The same operation as in Example (102a) was performed using serine methyl ester hydrochloride (5.24 g, 33.7 mmol), 3-methyl-4-nitrobenzoic acid (6.1 g, 33.7 mmol), WSC hydrochloride (6.71 g, 35 mmol), DMAP (0.18 g, 1.5 mmol), N,N-diisopropylethylamine (4.52 g, 35 mmol) and dichloromethane (100 mL). The resulting residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane=1/4, 1/2, 2/1, 1/0) to obtain 8.35 g of the title compound as a light yellow solid (88%).

reactant | serine methyl ester hydrochloride | 33.7 mmol, 5.24 g | Cl.COC([C@@H](N)CO)=O
reactant | 3-methyl-4-nitrobenzoic acid | 33.7 mmol, 6.1 g | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
reactant | WSC hydrochloride | 35 mmol, 6.71 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 35 mmol, 4.52 g | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMAP | 1.5 mmol, 0.18 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(3-Methyl-4-nitrobenzoyl)serine methyl ester | 8.35 g, 88% | COC([C@@H](NC(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)CO)=O | C12H14N2O6
